US09303033B2
A mixture of (Z)-5-((4-(cyclopropylamino)-2-(methylsulfinyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione and (Z)-5-((4-(cyclopropylamino)-2-(methylsulfonyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione (10 mg, 0.028 mmol) was mixed with imidazole (6 mg, 0.084 mmol) in isopropanol (1 mL). The mixture was stirred at 80° C. for 16 h. The reaction mixture was cooled to room temperature and the resulting solid was filtered off and washed with isopropanol. The solid was dried under vacuum to provide (Z)-5-((4-(cyclopropylamino)-2-(1H-imidazol-1-yl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione as a yellow solid. LCMS (ES): >95% pure, m/z 352 [M+H]+.

reactant | (Z)-5-((4-(cyclopropylamino)-2-(methylsulfinyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione | C1(CC1)NC1=NC(=NC=2N1N=CC2\C=C/2\C(NC(N2)=O)=O)S(=O)C | C13H13N7O3S
reactant | (Z)-5-((4-(cyclopropylamino)-2-(methylsulfonyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione | 0.028 mmol, 10 mg | C1(CC1)NC1=NC(=NC=2N1N=CC2\C=C/2\C(NC(N2)=O)=O)S(=O)(=O)C | C13H13N7O4S
reactant | imidazole | 0.084 mmol, 6 mg | N1C=NC=C1 | C3H4N2
solvent | isopropanol | 1 mL | C(C)(C)O | C3H8O
product | (Z)-5-((4-(cyclopropylamino)-2-(1H-imidazol-1-yl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione | C1(CC1)NC1=NC(=NC=2N1N=CC2\C=C/2\C(NC(N2)=O)=O)N2C=NC=C2 | C15H13N9O2
